US08466283B2
Step 5: Preparation of 2-amino-4-(benzyloxy)-3-methoxybenzonitrile
A degassed solution of 4-(benzyloxy)-3-methoxy-2-nitrobenzonitrile (185 g, 651 mmol) in glacial acetic acid (3500 mL) and water (10 mL) was cooled to 5° C. and treated with iron powder (182 g, 3.25 mol). After 3 days the reaction mixture was filtered through Celite, and the filtrate concentrated under reduced pressure. The oil, thus obtained, was treated with brine, neutralized with a sodium bicarbonate solution and extracted into DCM. The resulting emulsion was filtered through Celite after which the organic layer was separated, washed with brine, dried (sodium sulfate) and concentrated under reduced pressure to afford the title compound as a solid (145 g, 88%): 1H NMR (DMSO-d6) δ: 7.32-7.44 (5H, m), 7.15 (1H, d), 6.47 (1H, d), 5.69 (2H, s), 5.15 (2H, s), 3.68 (3H, s).

reactant | 4-(benzyloxy)-3-methoxy-2-nitrobenzonitrile | 651 mmol, 185 g | C(C1=CC=CC=C1)OC1=C(C(=C(C#N)C=C1)[N+](=O)[O-])OC | C15H12N2O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 3500 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | iron | 3.25 mol, 182 g | [Fe] | Fe
product | 2-amino-4-(benzyloxy)-3-methoxybenzonitrile | 145 g, 88% | NC1=C(C#N)C=CC(=C1OC)OCC1=CC=CC=C1 | C15H14N2O2
